US05378712
28 ml of t-butyl bromoacetate and 1.4 g of tetra-n-butylammonium hydrogen sulphate in 10 ml of water are added to a solution of 30.1 g of N-benzyloxycarbonyl-4-hydroxy-piperidine in 300 ml of toluene. Thereafter, a solution of 125 g of sodium hydroxide in 125 ml of water is added dropwise thereto. After stirring overnight, the organic extracts are separated, dried and concentrated. After drying there are obtained 34.1 g of N-benzyloxycarbonyl-4-[(t-butoxy carbonyl) methoxy]-piperidine, Rf =0.76 (ethyl acetate). MS (EI): 293 (M-C4H8)+.

reactant | t-butyl bromoacetate | 28 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | N-benzyloxycarbonyl-4-hydroxy-piperidine | 30.1 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)O | C13H17NO3
reactant | sodium hydroxide | 125 g | [OH-].[Na+]
catalyst | tetra-n-butylammonium hydrogen sulphate | 1.4 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 10 ml | O | H2O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 125 ml | O | H2O
product | N-benzyloxycarbonyl-4-[(t-butoxy carbonyl) methoxy]-piperidine | 34.1 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OCC(=O)OC(C)(C)C | C19H27NO5
